US06828441B2
Ethyl 2-(3-chloro-5-fluoromethyl-2-pyridyl)-N-(3,4-dimethoxybenzoyl)glycinate (Compound 601)
Triethylamine (0.28 ml) was added to a solution of ethyl 2-(3-chloro-5trifluoromethyl-2-pyridyl)glycinate (1 g; prepared in a similar manner to the starting material for Example 3) in dimethylformamide (10 ml) with stirring followed by 3,4-dimethoxybenzoyl chloride (0.70 g), the mixture was stirred for 45 minutes and evaporated. The residue was extracted with ethyl acetate and the extracts worked up to give the title product, m.p. 40-3° C. (Compound 601)

reactant | Triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(3-chloro-5trifluoromethyl-2-pyridyl)glycinate | ClC=1C(=NC=C(C1)C(F)(F)F)C(N)C(=O)OCC | C10H10ClF3N2O2
reactant | 3,4-dimethoxybenzoyl chloride | 0.70 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-chloro-5-fluoromethyl-2-pyridyl)-N-(3,4-dimethoxybenzoyl)glycinate | ClC=1C(=NC=C(C1)CF)C(NC(C1=CC(=C(C=C1)OC)OC)=O)C(=O)OCC | C19H20ClFN2O5
